US04904690
N-Methyl-[2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetamide
[2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid (568 mg) and triethylamine (0.34 ml) were added to dichloromethane (6 ml) and to the mixture was added dropwise diphenylphosphoryl azide (0.52 ml) with stirring at room temperature. After stirring for 30 minutes, 30% aqueous methylamine solution (5 ml) was added and stirring was continued for additional 2 hours. The solvent was distilled off under reduced pressure and n-hexane was added to the residue. Crystals deposited were filtered. The crude crystals were recrystallized from methanol to obtain the title compound as prisms, yield 380 mg (64%), m.p. 213°-214° C.

reactant | [2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid | 568 mg | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)O | C17H16O4
reactant | triethylamine | 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.52 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methylamine | 5 ml | CN | CH5N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-Methyl-[2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetamide | CNC(CC1=CC=CC=2C(C=C(OC21)C2=CCCCC2)=O)=O | C18H19NO3
